US06777434B2
3-(4-chlorophenyl)-2-(4-methanesulfonylphenyl)thiazolidine-4-one
4-methanesulfonylbenzaldehyde and 150 mg(1.18 mmol) of 4-chloroaniline were added and stirred in 10 ml of toluene and the mixture was heated and refluxed for 4 hours in the Dean-Stark trap apparatus. 0.083 ml(1.19 mmol) of mercaptoacetic acid was added to the reaction mixture and was heated and refluxed for 5 hours. The reaction mixture was cooled to room temperature and the solvent was distilled under reduced pressure and discarded, and then the resultant was diluted in 20 ml of ethyl acetate. The resultant was washed with 20 ml of 2N-hydrochloric acid, 20 ml of saturated sodium bicarbonate solution, and saturated sodium chloride solution and dried on anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (ethyl acetate/n-hexane=1:1, v/v ) to give 230 mg of the title compound as an white crystal(yield 57.6%).

reactant | 4-methanesulfonylbenzaldehyde | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
reactant | 4-chloroaniline | 1.18 mmol, 150 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | mercaptoacetic acid | 1.19 mmol, 0.083 ml | SCC(=O)O | C2H4O2S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chlorophenyl)-2-(4-methanesulfonylphenyl)thiazolidine-4-one | 230 mg, yield 57.6% | ClC1=CC=C(C=C1)N1C(SCC1=O)C1=CC=C(C=C1)S(=O)(=O)C | C16H14ClNO3S2
